US07939533B2
b) (S)-Acetic Acid 1-(5-{[2-(3,5-bis-trifluoromethyl-phenyl)-2-methyl-propionyl]-methyl-amino}-4-o-tolyl-pyridin-2-yl)-4-oxo-pyrrolidin-2-ylmethyl Ester
To a solution of 0.08 ml (0.9 mmol) oxalyl chloride in 2 ml dichloromethane were added dropwise at −78° C. 0.13 ml (1.9 mmol) dimethyl sulfoxide and after a period of 3 min. a solution of 0.50 g (0.78 mmol) (2S,4R)-acetic acid 1-(5-{[2-(3,5-bis-trifluoromethyl-phenyl)-2-methyl-propionyl]-methyl-amino}-4-o-tolyl-pyridin-2-yl)-4-hydroxy-pyrrolidin-2-ylmethyl ester in 2 ml dichloromethane. After stirring at −78° C. for 30 min. 0.7 ml (4 mmol) N,N-diisopropylethylamine were added. The reaction mixture was allowed to warm to room temperature during 1 h, diluted with tert-butyl methyl ether and washed with an aqueous ammonium chloride solution. The aqueous layer was extracted with two portions of tert-butyl methyl ether. The combined organic extracts were dried over sodium sulfate and concentrated in vacuo. Flash column chromatography gave 0.47 g (94%) of the title compound as a white solid.

reactant | oxalyl chloride | 0.9 mmol, 0.08 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl sulfoxide | 1.9 mmol, 0.13 ml | CS(=O)C | C2H6OS
reactant | (2S,4R)-acetic acid 1-(5-{[2-(3,5-bis-trifluoromethyl-phenyl)-2-methyl-propionyl]-methyl-amino}-4-o-tolyl-pyridin-2-yl)-4-hydroxy-pyrrolidin-2-ylmethyl ester | 0.78 mmol, 0.50 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C=1C(=CC(=NC1)N1[C@@H](C[C@H](C1)O)COC(C)=O)C1=C(C=CC=C1)C)C)(C)C)(F)F | C32H33F6N3O4
reactant | N,N-diisopropylethylamine | 4 mmol, 0.7 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | tert-butyl methyl ether | COC(C)(C)C | C5H12O
product | (S)-Acetic Acid 1-(5-{[2-(3,5-bis-trifluoromethyl-phenyl)-2-methyl-propionyl]-methyl-amino}-4-o-tolyl-pyridin-2-yl)-4-oxo-pyrrolidin-2-ylmethyl Ester | 0.47 g, 94% | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C=1C(=CC(=NC1)N1[C@@H](CC(C1)=O)COC(C)=O)C1=C(C=CC=C1)C)C)(C)C)(F)F | C32H31F6N3O4
